US05189054
Preparation of 3-[(Phenacyl)methylamino]-2-carboxy-4,6-dichloroindole
Dissolve 3-[(phenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole (800 mg, 2.04 mmol) in tetrahydrofuran (5 mL) and water (5 mL). Add lithium hydroxide monohydrate (252 mg, 6 mmol) and stir at room temperature overnight. Warm to 50° C. in an water bath for several hours, dilute with water (10 mL) and ethyl acetate (25 mL). Stir and acidify with 1N hydrochloric acid. Separate the organic phase and dry. Evaporate the solvent in vacuo and recrystallize (ethyl acetate/hexane) to give the title compound as a white powder (630 mg, 85%); mp 275° C. (dec).

reactant | 3-[(phenacyl)methylamino]-2-carbethoxy-4,6-dichloroindole | 2.04 mmol, 800 mg | C(C(=O)C1=CC=CC=C1)CNC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C20H18Cl2N2O3
reactant | lithium hydroxide monohydrate | 6 mmol, 252 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(Phenacyl)methylamino]-2-carboxy-4,6-dichloroindole | 630 mg, 85% | C(C(=O)C1=CC=CC=C1)CNC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)O | C18H14Cl2N2O3
